US07163936B2
To a solution of 1-allyl 3-methyl(2S)-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate (1.29 g, 4.28 mmol) in carbontetrachloride (16 ml) was added at room temperature triphenylphosphine (1.35 g) and the mixture was refluxed under heating for 6 hours. The insoluble materials were dissolved in chloroform and the solvent was removed in vacuo. The residue was purified with silica gel (150 g) column chromatography (hexane/ethyl acetate 4/1→2/1) to give 1-allyl 3-methyl (2S)-2-(chloromethyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate (268 mg, 24%).

reactant | 1-allyl 3-methyl(2S)-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate | 4.28 mmol, 1.29 g | OC[C@H]1N(CC=C1C(=O)OC)C(=O)OCC=C | C11H15NO5
reactant | triphenylphosphine | 1.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbontetrachloride | 16 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-allyl 3-methyl (2S)-2-(chloromethyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate | 268 mg, 24% | ClC[C@H]1N(CC=C1C(=O)OC)C(=O)OCC=C | C11H14ClNO4
